datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Cc1cc(C)c(C(=O)C(=O)[O-:10])c(C)c1.Nc1sc(Cl)c[n+:21]1[H:20]>>Cc1cc(C)c(C(=O)C(=O)[O:10][H:20])c(C)c1.Nc1sc(Cl)c[n:21]1 10=20;20,21=21",
"CCOc1ccc2c(c1)c(N1CCOCC1)c1c([n:10]2)CCC1.O=C(C[N+:21]1([H:20])CCCCC1)Nc1ccccc1>>CCOc1ccc2c(c1)c(N1CCOCC1)c1c([n+:10]2[H:20])CCC1.O=C(C[N:21]1CCCCC1)Nc1ccccc1 10=20;20,21=21",
"O=C(CNC(=O)C[NH2:10])NCC(=O)N1CCCC1C(=O)[O-].c1cc([NH2+:21][H:20])c2[nH]ncc2c1>>O=C(CNC(=O)C[NH2+:10][H:20])NCC(=O)N1CCCC1C(=O)[O-].c1cc([NH2:21])c2[nH]ncc2c1 10=20;20,21=21",
"CC1=C(C(C)C)C(=[O:10])N(c2ccccc2)N1C.C[N+:21]1([H:20])Cc2c(ccc3c2OCO3)-c2ccc3cc4c(cc3c21)OCO4>>CC1=C(C(C)C)C(=[O+:10][H:20])N(c2ccccc2)N1C.C[N:21]1Cc2c(ccc3c2OCO3)-c2ccc3cc4c(cc3c21)OCO4 10=20;20,21=21",
"CN1CC=CC[N:10]1C.C[Si](C)(C)C[NH+:21](C1CCCCC1)[H:20]>>CN1CC=CC[N+:10]1(C)[H:20].C[Si](C)(C)C[NH:21]C1CCCCC1 10=20;20,21=21",
"N#CC(C#N)=C(C#N)[N-:10]c1ccc(Br)cc1.[NH3+]c1ccc(-c2c[n+:21]([H:20])c(-c3ccccc3)o2)cc1>>N#CC(C#N)=C(C#N)[N:10](c1ccc(Br)cc1)[H:20].[NH3+]c1ccc(-c2c[n:21]c(-c3ccccc3)o2)cc1 10=20;20,21=21",
"CSc1ncc2c(nc[n:21]2[H:20])n1.N/C=[N:10]\O>>CSc1ncc2c(nc[n-:21]2)n1.N/C=[N+:10](\O)[H:20] 10=20;20,21=21",
"CCCC[NH:10]CCC(=O)[O-].NC(=S)[N:21](c1cccc(Cl)c1)[H:20]>>CCCC[NH+:10](CCC(=O)[O-])[H:20].NC(=S)[N-:21]c1cccc(Cl)c1 10=20;20,21=21",
"CC(CC[N:10](C)C)NN.CNc1cc[nH+]c([S:21][H:20])n1>>CC(CC[N+:10](C)(C)[H:20])NN.CNc1cc[nH+]c([S-:21])n1 10=20;20,21=21",
"COC1=CC=C2[C@@H]3Cc4ccc(OC)c5c4[C@]2(CC[N:10]3C)[C@@H]1O5.c1cc2c([n+:21]([H:20])c1)CCCC2>>COC1=CC=C2[C@@H]3Cc4ccc(OC)c5c4[C@]2(CC[N+:10]3(C)[H:20])[C@@H]1O5.c1cc2c([n:21]c1)CCCC2 10=20;20,21=21",
"NC(=O)CC(C(N)=O)[NH:21][H:20].O=C([O-])C1(C(=O)[O-:10])CC1>>NC(=O)CC(C(N)=O)[NH-:21].O=C([O-])C1(C(=O)[O:10][H:20])CC1 10=20;20,21=21",
"CCCCCCCC[N:10]1CCCCC1.C[NH+](C)CCc1ccccc1[O:21][H:20]>>CCCCCCCC[N+:10]1([H:20])CCCCC1.C[NH+](C)CCc1ccccc1[O-:21] 10=20;20,21=21",
"O=[N+]([O-])c1ccc(O)c2c1ccc[n+:21]2[H:20].S=C(/N=N/c1ccccc1)N[NH:10]c1ccccc1>>O=[N+]([O-])c1ccc(O)c2c1ccc[n:21]2.S=C(/N=N/c1ccccc1)N[NH+:10](c1ccccc1)[H:20] 10=20;20,21=21",
"COC(=O)c1ccc([NH2+:21][H:20])cc1.Nc1cccc2c1ccc1c2ccc[n:10]1>>COC(=O)c1ccc([NH2:21])cc1.Nc1cccc2c1ccc1c2ccc[n+:10]1[H:20] 10=20;20,21=21",
"O=C([O-])C(CO)[NH:10]Cc1cc([N+](=O)[O-])ccc1[O-].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>O=C([O-])C(CO)[NH+:10](Cc1cc([N+](=O)[O-])ccc1[O-])[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CCOC(=O)C(CC)[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CCOC(=O)C(CC)[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"O=P([O-])(O)C([NH2+]Cc1cc[n:10]cc1)c1ccccc1O.[NH3+]c1ccc(-c2oc(-c3ccc(Br)cc3)c[n+:21]2[H:20])cc1>>O=P([O-])(O)C([NH2+]Cc1cc[n+:10]([H:20])cc1)c1ccccc1O.[NH3+]c1ccc(-c2oc(-c3ccc(Br)cc3)c[n:21]2)cc1 10=20;20,21=21",
"N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1.O=P([O-])([O-])C(c1ccccc1[O-])[NH:10]Cc1ccccn1>>N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1.O=P([O-])([O-])C(c1ccccc1[O-])[NH+:10](Cc1ccccn1)[H:20] 10=20;20,21=21",
"Nc1nc[n:10]c2c1cnn2CCO.c1ccc(-c2cc[n+:21]([H:20])cc2)nc1>>Nc1nc[n+:10]([H:20])c2c1cnn2CCO.c1ccc(-c2cc[n:21]cc2)nc1 10=20;20,21=21",
"CN1/C(=[O+:21]\[H:20])C=Cc2ccccc21.COC(=O)C[C@@H]1[C@@H](C(=O)[O-])[NH:10]C[C@H]1C(C)O>>CN1C(=[O:21])C=Cc2ccccc21.COC(=O)C[C@@H]1[C@@H](C(=O)[O-])[NH+:10]([H:20])C[C@H]1C(C)O 10=20;20,21=21",
"Cc1[nH]cnc1CSCCNC(=[NH2+])NCCCc1c[nH]c[n:10]1.NNC(=O)c1ccccc1[NH2+:21][H:20]>>Cc1[nH]cnc1CSCCNC(=[NH2+])NCCCc1c[nH]c[n+:10]1[H:20].NNC(=O)c1ccccc1[NH2:21] 10=20;20,21=21",
"CN[N+:21](C)(C)[H:20].N/C(CC([NH3+])c1ccccc1)=[N:10]/O>>CN[N:21](C)C.N/C(CC([NH3+])c1ccccc1)=[N+:10](/O)[H:20] 10=20;20,21=21",
"C(=C(c1ccccc1)[O:21][H:20])c1ccccn1.O[C@H]1CCC[C@H]1[NH2:10]>>C(=C(c1ccccc1)[O-:21])c1ccccn1.O[C@H]1CCC[C@H]1[NH2+:10][H:20] 10=20;20,21=21",
"C=Cc1ccc(C)[n+:21]([H:20])c1.Cc1nc(C)c(C)[n:10]c1C>>C=Cc1ccc(C)[n:21]c1.Cc1nc(C)c(C)[n+:10]([H:20])c1C 10=20;20,21=21",
"Nc1ccc(S(=O)(=O)Nc2ccc[n:10]c2)cc1.O=C(CC(c1ccccc1)c1ccccc1Cl)[O:21][H:20]>>Nc1ccc(S(=O)(=O)Nc2ccc[n+:10]([H:20])c2)cc1.O=C(CC(c1ccccc1)c1ccccc1Cl)[O-:21] 10=20;20,21=21",
"C[C@]12C[C@H](C(=O)[O-:10])OC(=O)[C@H]1CC[C@@]1(C)[C@@H]2[C@H]2CCC1(O)C(=O)O2.Cc1c(Cn2cc[nH+]c2)sc2cc(C(=O)[O:21][H:20])ccc12>>C[C@]12C[C@H](C(=O)[O:10][H:20])OC(=O)[C@H]1CC[C@@]1(C)[C@@H]2[C@H]2CCC1(O)C(=O)O2.Cc1c(Cn2cc[nH+]c2)sc2cc(C(=O)[O-:21])ccc12 10=20;20,21=21",
"C1C[NH+:21]([H:20])CS1.Cc1nsc([S-:10])n1>>C1C[NH:21]CS1.Cc1nsc([S:10][H:20])n1 10=20;20,21=21",
"[O-]c1cccc2c1-c1cccc([O-:10])c1-2.c1c[nH+]c(P(c2[nH]cc[nH+]2)c2[nH]cc[n+:21]2[H:20])[nH]1>>[O-]c1cccc2c1-c1cccc([O:10][H:20])c1-2.c1c[nH+]c(P(c2[nH]cc[nH+]2)c2[nH]cc[n:21]2)[nH]1 10=20;20,21=21",
"CCCCCC[NH:10]CCC(=O)[O-].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CCCCCC[NH+:10](CCC(=O)[O-])[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"C=CC[N+:21]1([H:20])CCOCC1.O=C([O-])/C=C/c1c[nH]c[n:10]1>>C=CC[N:21]1CCOCC1.O=C([O-])/C=C/c1c[nH]c[n+:10]1[H:20] 10=20;20,21=21",
